US06593325B1
2-Benzyloxy-5-chloro-8-phenylpyrido[2,3-d]pyridazine (250 mg), ammonium formate (115 mg) and 10% palladium on carbon catalyst (50 mg) were stirred together at reflux in propan-2-ol (50 ml) for 30 min. More ammonium formate (45 mg) was added, and the mixture was stirred as before for a further 30 min, and was then allowed to cool to room temperature. The catalyst was removed by filtration, was washed thoroughly with methanol, and the filtrate was concentrated in vacuo to yield 8-phenyl-1H-pyrido[2,3-d]pyridazin-2-one as a white solid (150 mg). 1H NMR (400 MHz, CDCl3) δ6.98 (1H, d, J=9.4 Hz), 7.63 (3H, m), 7.69 (2H, m), 7.85 (1H, d, J=9.5 Hz), 8.88 (1H, br s), 9.23 (1H, s); MS (ES+) m/e 224 [MH]+.

reactant | 2-Benzyloxy-5-chloro-8-phenylpyrido[2,3-d]pyridazine | 250 mg | C(C1=CC=CC=C1)OC=1C=CC=2C(=C(N=NC2Cl)C2=CC=CC=C2)N1 | C20H14ClN3O
reactant | ammonium formate | 115 mg | C(=O)[O-].[NH4+]
reactant | ammonium formate | 45 mg | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | propan-2-ol | 50 ml | CC(C)O | C3H8O
product | 8-phenyl-1H-pyrido[2,3-d]pyridazin-2-one | 150 mg | C1(=CC=CC=C1)C=1N=NC=C2C1NC(C=C2)=O | C13H9N3O
